US07541372B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-o-tolyl-[1,3,4]oxadiazole
To a suspension of 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) in phosphorus oxychloride (1.68 mL, 18.4 mmol) was added o-toluic acid (188 mg, 1.38 mmol) and was stirred for 30 min at ambient temperature. The suspension was heated for 2 h at 90° C. whereupon it became homogeneous. After cooling to ambient temperature it was then poured onto a mixture of ethyl acetate (20 mL) and aqueous sodium carbonate (saturated, 20 mL). The aqueous phase was then separated and extracted with ethyl acetate (20 mL). The combined organic extracts were then washed with aqueous sodium carbonate and brine. Concentration and trituration in tert-butylmethylether (3 mL) afforded the title compound (99 mg, 34%) as a white solid. MS: m/e=318.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | phosphorus oxychloride | 18.4 mmol, 1.68 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | o-toluic acid | 1.38 mmol, 188 mg | C=1(C(=CC=CC1)C(=O)O)C | C8H8O2
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-o-tolyl-[1,3,4]oxadiazole | 99 mg, 34% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)C | C19H15N3O2
